US07494992B2
Preparation 104: 1-acetyl-4-[(3-phenylpropyl)oxy]piperidine
1-Acetylpiperidin-4-ol (Preparation 193, 8 g, 60 mmol) in N,N-dimethylformamide (50 ml) was added dropwise to a stirred suspension of sodium hydride (50% wt dispersion in oil, 3.68 g, 80 mmol) in N,N-dimethylformamide (50 ml) at room temperature under nitrogen. After stirring the reaction mixture for 4 hours, 1-bromo-3-phenylpropane (12.94 g, 65 mmol) in N,N-dimethylformamide (50 ml) was added dropwise to the solution at 0° C. and the reaction mixture was stirred for a further 4 h. The solution was diluted with isopropyl alcohol (20 ml) and water (100 ml) and then evaporated to give a semi solid. Water (100 ml) was added and the solution was extracted with petroleum ether (3×100 ml). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give an orange oil (4.3 g, 27%).

reactant | 1-Acetylpiperidin-4-ol | 60 mmol, 8 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 80 mmol, 3.68 g | [H-].[Na+]
reactant | 1-bromo-3-phenylpropane | 65 mmol, 12.94 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
solvent | Water | 100 ml | O | H2O
product | 1-acetyl-4-[(3-phenylpropyl)oxy]piperidine | 4.3 g, 27% | C(C)(=O)N1CCC(CC1)OCCCC1=CC=CC=C1 | C16H23NO2
